US07291616B2
[4-Chloro-6-(5-chloro-2-methyl-phenyl)-[1,3,5]triazin-2-yl]-(1H-indazol-6-yl)-amine
A mixture of 2,4-dichloro-6-(5-chloro-2-methyl-phenyl)-[1,3,5]triazine (1 g, 3.6 mmol), 6-aminoindazole (0.5 g, 3.7 mmol), tetrahydrofuran (10 ml), and diisopropylethylamine (0.65 ml, 3.7 mmol) was stirred for 1 hour. After concentrating under reduced pressure, the residue was treated with water (25 ml) and stirred for 10 minutes. The solid was filtered, treated with hydrochloric acid (1 M, 10 ml), stirred vigorously for 10 minutes, and filtered. The solid was purified by flash chromatography on silica eluting with 5% methanol-dichloromethane to yield the title compound (600 mg, 45% yield). 1H NMR (DMSO-d6) 13.04 (br s, 1H), 10.90-10.97 (m, 1H), 8.12 (s, 1H), 8.02 (s, 1H), 7.71 (m, 2H), 7.53 (m, 1H), 7.41 (m, 1H), 7.34 (m, 1H), 2.50-2.54 (m, 3H).

reactant | 2,4-dichloro-6-(5-chloro-2-methyl-phenyl)-[1,3,5]triazine | 3.6 mmol, 1 g | ClC1=NC(=NC(=N1)Cl)C1=C(C=CC(=C1)Cl)C | C10H6Cl3N3
reactant | 6-aminoindazole | 3.7 mmol, 0.5 g | NC1=CC=C2C=NNC2=C1 | C7H7N3
reactant | diisopropylethylamine | 3.7 mmol, 0.65 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | [4-Chloro-6-(5-chloro-2-methyl-phenyl)-[1,3,5]triazin-2-yl]-(1H-indazol-6-yl)-amine | 600 mg, 45% yield | ClC1=NC(=NC(=N1)C1=C(C=CC(=C1)Cl)C)NC1=CC=C2C=NNC2=C1 | C17H12Cl2N6
